US05262415
(a) 3-Nitro-6-methylaminopyridine
3-Nitro-6-chloropyridine (5 g, 31.5 mmol) was added to 10 ml of a 30% solution of methylamine in ethanol, followed by reaction at room temperature for 5 minutes. Then, recrystallization from chloroform-hexane gave 4.92 g of the intended product as yellow crude crystals.

reactant | 3-Nitro-6-chloropyridine | 31.5 mmol, 5 g | [N+](=O)([O-])C=1C=NC(=CC1)Cl | C5H3ClN2O2
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 3-Nitro-6-methylaminopyridine | 4.92 g | [N+](=O)([O-])C=1C=NC(=CC1)NC | C6H7N3O2
